US08633220B2
Aqueous 1 N lithium hydroxide (3.6 mL, 3.6 mmol) was added to a solution of methyl 6-hexyl-1-naphthoate (198 mg, 0.73 mmol) THF (16 mL) in a scintillation vial. The vial was sealed and heated at 40° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were evaporated under a stream of nitrogen. The residue was diluted with water (3 mL), acidified with 1 N aqueous HCl (5 mL) and extracted with EtOAc. (2×50 mL). The combined organic phase was dried (Na2SO4), filtered and concentrated in vacuo to afford 182 mg (97%) of 6-hexyl-1-naphthoic acid, which was used without hither purification.

reactant | lithium hydroxide | 3.6 mmol, 1 N, 3.6 mL | [OH-].[Li+]
reactant | methyl 6-hexyl-1-naphthoate | 0.73 mmol, 16 mL, 198 mg | C(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H22O2
product | 6-hexyl-1-naphthoic acid | 182 mg, 97% | C(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H20O2
